US07452893B2
Step 5: N-[(1S,3S)-3-aminocyclopentyl]-2,2-difluoro-2-(4-methylphenyl)acetamide
A saturated solution of HCl in EtOAc (10 mL) was added to a stirred solution of tert-butyl (1S,3S)-3-{[difluoro(4-methylphenyl)acetyl]amino}cyclopentylcarbamate (1.05 g, 2.85 mmol) in EtOAc (10 mL). After 1 h the solution was concentrated to dryness. The residue was dissolved in 1:1 CH3CN/H2O (18 mL) and loaded onto SCX ion exchange resin (10 g, 60 mL, 6.9 meq), rinsing with CH3CN (15 mL), and then eluting with EtOH/NH3 (25 mL). The eluent was concentrated to give the title compound (774 mg) as a solid: MS=252.4 (M+1-ammonia).

reactant | HCl | Cl | ClH
reactant | tert-butyl (1S,3S)-3-{[difluoro(4-methylphenyl)acetyl]amino}cyclopentylcarbamate | 2.85 mmol, 1.05 g | FC(C(=O)N[C@@H]1C[C@H](CC1)NC(OC(C)(C)C)=O)(C1=CC=C(C=C1)C)F | C19H26F2N2O3
solvent | EtOAc | 10 mL | CCOC(=O)C | C4H8O2
solvent | EtOAc | 10 mL | CCOC(=O)C | C4H8O2
product | N-[(1S,3S)-3-aminocyclopentyl]-2,2-difluoro-2-(4-methylphenyl)acetamide | 774 mg | N[C@@H]1C[C@H](CC1)NC(C(C1=CC=C(C=C1)C)(F)F)=O | C14H18F2N2O
